US07390830B1
Sodium cyanoborohydride (26 mg, 0.42 mmol) and acetic acid (14 mL) were added to a mixture of 4-[N-(2-amino-5-bromobenzoyl)glycyl]aminomethyl-1-(4-chlorobenzyl)piperidine (Compd. No. 1042) (67 mg, 0.14 mmol) with a 37% aqueous solution of formaldehyde (0.112 mL, 1.4 mmol), acetonitrile (2 mL) and methanol (1.5 mL), and the resulting mixture was stirred at 50° C. for 30 hours. A 1 M aqueous solution of NaOH and dichloromethane were added to the mixture. The aqueous layer was separated, and the organic layer was dried over K2CO3, filtered, concentrated and purified by column chromatography (SiO2, 20% methanol/ethyl acetate) to afford 4-[N-[5-bromo-2-(dimethylamino)benzoyl]glycyl]aminomethyl-1-(4-chlorobenzyl)piperidine (Compd. No. 1428) (60 mg, 82%). The purity was determined by RPLC/MS (100%). ESI/MS m/e 523 (M++H, C24H30BrClF6N4O2).

reactant | Sodium cyanoborohydride | 0.42 mmol, 26 mg | C(#N)[BH3-].[Na+]
reactant | 4-[N-(2-amino-5-bromobenzoyl)glycyl]aminomethyl-1-(4-chlorobenzyl)piperidine | NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC=C(C=C2)Cl)C=C(C=C1)Br | C22H26BrClN4O2
reactant | formaldehyde | 1.4 mmol, 0.112 mL | C=O | CH2O
reactant | NaOH | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 1.5 mL | CO | CH4O
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | acetic acid | 14 mL | C(C)(=O)O | C2H4O2
product | 4-[N-[5-bromo-2-(dimethylamino)benzoyl]glycyl]aminomethyl-1-(4-chlorobenzyl)piperidine | BrC=1C=CC(=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC=C(C=C2)Cl)C1)N(C)C | C24H30BrClN4O2
